US06476045B2
1-{3-[5-Chloro-2-(4-chlorophenyl)-1-methyl-1H-indol-3-yl]-1-oxopropyl}-4-(2-methoxyphenyl)piperazine
Sodium hydride (60% suspension in mineral oil, 40 mg, 1 mmol) was added to a solution of 1-{3-[5-chloro-2-(4-chlorophenyl)-1H-indol-3-yl]-1-oxopropyl}-4-(2-methoxyphenyl)piperazine (Description 33, 270 mg, 0.53 mmol) in dimethylformamide (10 mL) and the mixture was stirred at room temperature for 10 min. Iodomethane (165 μl, 376 mg, 2.65 mmol) was added and the mixture was stirred at room temperature for 1 h. Water (100 mL) was added and the mixture was extracted with ether (2×40 mL). The combined organic fractions were washed with water (3×40 mL) and brine (40 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a beige foam. 1H NMR (360 MHz, CDCl3) δ 7.60 (1H, d, J 1.7 Hz), 7.48 (2H, d, J 8.4 Hz), 7.32 (2H, d, J 8.4 Hz), 7.24 (1H, d, J 8.5 Hz), 7.20 (1H, dd, J 8.5, 1.7 Hz), 7.02 (1H, t, J 7.8 Hz), 6.94-6.82 (3H, m), 3.86 (3H, s), 3.75 (2H, t, J 5.0 Hz), 3.54 (3H, s), 3.40 (2H, t, J 5.0 Hz), 3.02 (2H, t, J 8.1 Hz), 2.95 (2H, t, J 5.0 Hz), 2.80 (2H, t, J 5.0 Hz), and 2.55 (2H, t, J 8.1 Hz). m/z (ES+) 522, 524 (M+1).

reactant | Sodium hydride | 1 mmol, 40 mg | [H-].[Na+]
reactant | 1-{3-[5-chloro-2-(4-chlorophenyl)-1H-indol-3-yl]-1-oxopropyl}-4-(2-methoxyphenyl)piperazine | 0.53 mmol, 270 mg | ClC=1C=C2C(=C(NC2=CC1)C1=CC=C(C=C1)Cl)CCC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C28H27Cl2N3O2
reactant | Iodomethane | 2.65 mmol, 165 μl, 376 mg | IC | CH3I
reactant | Water | 100 mL | O | H2O
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-{3-[5-Chloro-2-(4-chlorophenyl)-1-methyl-1H-indol-3-yl]-1-oxopropyl}-4-(2-methoxyphenyl)piperazine | ClC=1C=C2C(=C(N(C2=CC1)C)C1=CC=C(C=C1)Cl)CCC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC | C29H29Cl2N3O2
